US08580841B2
Step F: Preparation of Ethyl 2-(7-Hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate.
DCM (305 mL) was transferred to a 1 L 3-necked round-bottomed flask and cooled to −11° C. (internal) (ice acetone bath). BBr3 (72.0 mL, 761 mmol) was added to the DCM with stirring. A solution of ethyl 2-(7-methoxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (41.62 g, 152 mmol) in DCM (145 mL) was added in drops maintaining the internal temperature at between −5 to 0° C. After the addition the reaction was stirred for 1 h below 0° C. The reaction mixture was slowly poured into mixture of ice (400 mL) and saturated K2CO3 (400 mL) and stirred well (pH maintained at 9-7). The organic layer was separated, washed with brine (1×100 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The residual brown oil was purified by a pad of silica gel to give the title compound (8.03 g). LCMS m/z=260.2.

reactant | BBr3 | 761 mmol, 72.0 mL | B(Br)(Br)Br | BBr3
reactant | ethyl 2-(7-methoxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 152 mmol, 41.62 g | COC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C16H19NO3
reactant | K2CO3 | 400 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 145 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 305 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(7-Hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 8.03 g | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
